US03940426
Acetic anhydride (400 ml.) was added to 116 g of 2,3,3',4'-biphenyltetracarboxylic acid having a melting point of 195° to 205°C., and the mixture was heated under reflux for 4 hours. The mixture was cooled, and allowed to stand. The crystals formed were filtered to provide 83 g (yield 80% of theoretical) of 2,3,3',4'-biphenyltetracarboxylic dianhydride having a melting point of 196° to 204°C. By further concentration of the filtrate, 17 g (16%) of 2,3,3',4'-biphenyltetracarboxylic dianhydride was obtained.

reactant | 2,3,3',4'-biphenyltetracarboxylic acid | 116 g | C1(=C(C(=CC=C1)C(=O)O)C(=O)O)C1=CC(=C(C=C1)C(=O)O)C(=O)O | C16H10O8
solvent | Acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,3,3',4'-biphenyltetracarboxylic dianhydride | 83 g, yield 80% | C1=CC(=C2C(=C1)C(=O)OC2=O)C3=CC4=C(C=C3)C(=O)OC4=O | C16H6O6
